US07897619B2
Neat tert-butyl nitrite (670 μL, 5633 μmol) was added to a suspension of 5-aminoindazole (500 mg, 3755 μmol) (commercially available from VWR Chemical Catalog (Order Number AAAL06705-14)) in MeCN (7 mL) at 0° C. followed by dropwise addition of trimethylsilyl azide (598 μL 4506 μmol). The mixture was stirred at 0° C. for 5 minutes room temperature for 18 hours, and at 50° C. for 24 hours. The mixture was concentrated under reduced pressure, and the resulting brown residue was absorbed onto silica gel and purified by flash chromatography (silica gel, 2% to 6% MeOH/DCM) to provide 5-azido-1H-indazole (456 mg, 76%) as a golden solid. LCMS (API-ES) m/z: 160.1 (M+H+).

reactant | tert-butyl nitrite | 5633 μmol, 670 μL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-aminoindazole | 3755 μmol, 500 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | trimethylsilyl azide | 4506 μmol, 598 μL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | MeCN | 7 mL | CC#N | C2H3N
product | 5-azido-1H-indazole | 456 mg, 76% | N(=[N+]=[N-])C=1C=C2C=NNC2=CC1 | C7H5N5
